US09108926B2
3-[(Propan-2-ylsulfonyl)methyl]anilinium chloride
A solution of N-{3-[(propan-2-ylsulfonyl)methyl]phenyl}acetamide (5.4 g) in ethanol (29.6 mL) was treated with concentrated hydrochloric acid (35.5 mL) and refluxed for 24 hours. The reaction mixture was condensed to dryness. The title compound (3.5 g) was obtained by crystallization from ethanol/ethyl acetate.

reactant | N-{3-[(propan-2-ylsulfonyl)methyl]phenyl}acetamide | 5.4 g | CC(C)S(=O)(=O)CC=1C=C(C=CC1)NC(C)=O | C12H17NO3S
reactant | hydrochloric acid | 35.5 mL | Cl | ClH
reactant | ethanol ethyl acetate | C(C)O.C(C)(=O)OCC
solvent | ethanol | 29.6 mL | C(C)O | C2H6O
product | 3-[(Propan-2-ylsulfonyl)methyl]anilinium chloride | 3.5 g | [Cl-].CC(C)S(=O)(=O)CC=1C=C([NH3+])C=CC1 | InChI=1S/C10H15NO2S.ClH/c1-8(2)14(12,13)7-9-4-3-5-10(11)6-9;/h3-6,8H,7,11H2,1-2H3;1H
